US07691866B2
2-chloro-6-methoxyquinazoline (1eq) and 4-bromoaniline (2 eq) in ethanol was heated at 80° C. for 16 h. The mixture was concentrated and passed through a plug of silica to yield (4-bromophenyl)(6-methoxyquinazolin-2-yl)amine.

reactant | 2-chloro-6-methoxyquinazoline | 1eq | ClC1=NC2=CC=C(C=C2C=N1)OC | C9H7ClN2O
reactant | 4-bromoaniline | 2 eq | BrC1=CC=C(N)C=C1 | C6H6BrN
solvent | ethanol | C(C)O | C2H6O
product | (4-bromophenyl)(6-methoxyquinazolin-2-yl)amine | BrC1=CC=C(C=C1)NC1=NC2=CC=C(C=C2C=N1)OC | C15H12BrN3O
